US05650533
A mixture of 3-dimethylamino-1-(2-nitro-4-trifluoromethylphenyl)-prop-2-en-1-one (41.0 g) and hydroxylamine hydrochloride (11.9 g) in dry ethanol (280 ml) was stirred at room temperature overnight. It was evaporated to dryness and the residue was dissolved in a mixture of ether (150 ml) and water (100 ml). The layers were separated and the organic layer was washed with water (100 ml), dried (anhydrous sodium sulphate) and filtered. The filtrate was evaporated to dryness and the residue was triturated with petroleum spirit (bp 60°-80° C.) (20 ml) and filtered to give 5-hydroxy-5-(2-nitro-4-trifluoromethylphenyl)-isoxazoline (33.9 g) as a pale yellow solid mp 122°-123° C.

reactant | 3-dimethylamino-1-(2-nitro-4-trifluoromethylphenyl)-prop-2-en-1-one | 41.0 g | CN(C=CC(=O)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C | C12H11F3N2O3
reactant | hydroxylamine hydrochloride | 11.9 g | Cl.NO
solvent | ethanol | 280 ml | C(C)O | C2H6O
product | 5-hydroxy-5-(2-nitro-4-trifluoromethylphenyl)-isoxazoline | 33.9 g | OC1(CC=NO1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C10H7F3N2O4
